US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxamide
Triethylamine (16 μL, 0.11 mmol) was added to a solution of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (38 mg, 0.11 mmol) and 4-nitrophenyl chloroformate (23 mg, 0.11 mmol) in tetrahydrofuran (2 mL) at 0° C. After 1 h, 1-piperidin-4-ylimidazolidine-2,4-dione (21 mg, 0.11 mmol) and triethylamine (47 μL, 0.33 mmol) were added and the mixture allowed to warm to ambient temperature. After 1 h, saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography [100% dichloromethane→93% dichloromethane/methanol] gave the title compound (36 mg). MS 555.2126 (M+1).

reactant | Triethylamine | 0.11 mmol, 16 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.11 mmol, 38 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.11 mmol, 23 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1-piperidin-4-ylimidazolidine-2,4-dione | 0.11 mmol, 21 mg | N1CCC(CC1)N1C(NC(C1)=O)=O | C8H13N3O2
reactant | triethylamine | 0.33 mmol, 47 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxamide | 36 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC(CC2)N2C(NC(C2)=O)=O | C25H27F5N6O3
